US06908914B1
1-[3-(4-Adamantan-2-yl-3-chlorophenyl)prop-2-ynyl]azepane hydrochloride
3.46 g of sodium iodide are added, under an inert atmosphere, to 3.68 g of 2-{2-chloro-4-[3-(1-azepanyl)prop-1-ynyl]phenyl}adamantan-2-ol (compound I′.1) in 20 ml of acetonitrile and 10 ml of dichloromethane, followed by 2.35 ml of chlorotrimethylsilane. The reaction mixture is stirred for 2 hours at 30° C., and then 1.06 ml of acetic acid are added, followed by 10 ml of acetonitrile and then 1.81 g of powdered zinc. The reaction mixture is heated at 80° C. for 3 hours, allowed to cool to room temperature, filtered and washed with diethyl ether. The organic phases are dried over sodium sulphate, and then the solvents are evaporated off under reduced pressure. The residue obtained is purified by chromatography on a column of silica gel, eluting with an 87.5/12.5 (v/v) cyclohexane/ethyl acetate mixture; m.p.=218° C. (HCl).

reactant | sodium iodide | 3.46 g | [I-].[Na+]
reactant | 2-{2-chloro-4-[3-(1-azepanyl)prop-1-ynyl]phenyl}adamantan-2-ol | 3.68 g | ClC1=C(C=CC(=C1)C#CCN1CCCCCC1)C1(C2CC3CC(CC1C3)C2)O | C25H32ClNO
reactant | chlorotrimethylsilane | 2.35 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | acetic acid | 1.06 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | zinc | 1.81 g | [Zn] | Zn
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-[3-(4-Adamantan-2-yl-3-chlorophenyl)prop-2-ynyl]azepane hydrochloride | Cl.C12C(C3CC(CC(C1)C3)C2)C2=C(C=C(C=C2)C#CCN2CCCCCC2)Cl | InChI=1S/C25H32ClN.ClH/c26-24-17-18(6-5-11-27-9-3-1-2-4-10-27)7-8-23(24)25-21-13-19-12-20(15-21)16-22(25)14-19;/h7-8,17,19-22,25H,1-4,9-16H2;1H
